US04654338
To 75 ml of saturated a solution of ammonia in ethanol was added 3 g (0.01 mole) of 3-chloro-1,5-diphenyl-1H-1,2,4-thiadiazine-1-oxide and the mixture was heated in an autoclave at 100° C. for 3 hours. The mixture was cooled, poured into water and the product was filtered off, washed with water and dried to obtain 2.6 g (93%) of 3-amino-1,5-diphenyl-1H-1,2,4-thiadiazine-1-oxide melting at 169°-170° C.

reactant | ammonia | N | H3N
reactant | 3-chloro-1,5-diphenyl-1H-1,2,4-thiadiazine-1-oxide | 0.01 mole, 3 g | ClC=1NS(C=C(N1)C1=CC=CC=C1)(C1=CC=CC=C1)=O | C15H13ClN2OS
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-1,5-diphenyl-1H-1,2,4-thiadiazine-1-oxide | 2.6 g, 93% | NC=1NS(C=C(N1)C1=CC=CC=C1)(C1=CC=CC=C1)=O | C15H15N3OS
